US05486466
To a solution of 91.4 g of oxalyl chloride in 1.12 1 of methylene chloride, pre-cooled to -70° C., a solution of 123.4 g of dimethylsulfoxide in 0.18 l of methylene chloride was added within 25 minutes. The solution was stirred for 10 minutes at -70° C. Then, a solution of 143.3 g of 3-trityloxy-1-propanol in 0.6 l of methylene chloride was added within 25 minutes, the temperature being maintained at -65° to -70° C. Stirring was continued for another 10 minutes, and then, 182 g of triethylamine were added within 5 minutes at -65° to -70° C. The mixture was stirred for 20 minutes at -70° C. and then allowed to warm up to 10° C. within 1 hour. After the addition of 1.2 1 of water, stirring was continued for 5 minutes. The layers were separated, and the aqueous phase was extracted with 1.2 l of methylene chloride. The organic phases were washed with 1.2 l of water, dried over sodium sulfate, and the solvent was evaporated in vacuo. The residue was crystallized from ethyl acetate/hexane to yield 116.0 g of 3-trityloxypropionaldehyde as white crystals of m.p. 97°-98° C.

reactant | oxalyl chloride | 91.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 123.4 g | CS(=O)C | C2H6OS
reactant | 3-trityloxy-1-propanol | 143.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCCCO | C22H22O2
reactant | triethylamine | 182 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 0.18 l | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.6 l | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-trityloxypropionaldehyde | 116.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCCC=O | C22H20O2
